US04429110
10.0 Parts of 2-amino-6-(4-amino-3-ethylphenyl)-6-methylheptane in 120 parts of 1 N aqueous hydrochloric acid were shaken with hydrogen at room temperature and atmospheric pressure with 1.0 parts Nishimura catalyst. After 46% of theory hydrogen had been taken up in 8 hours a further 1.0 parts of catalyst was added and 96% of theory hydrogen uptake was reached in the next 15 hours. The hydrogenation which ceased at 110% theory during the next 24 hours following a final 1.0 part catalyst addition, was worked up according to Example VI, and gave on distillation 8.8 parts of 2-amino-6-(4-amino-3-ethylcyclohexyl)-6-methylheptane, boiling point 176°-80° C. at 12 mbar with the following percentage composition by weight.

reactant | 2-amino-6-(4-amino-3-ethylphenyl)-6-methylheptane | NC(C)CCCC(C)(C)C1=CC(=C(C=C1)N)CC | C16H28N2
reactant | hydrochloric acid | 1 N | Cl | ClH
reactant | hydrogen | [H][H] | H2
product | 2-amino-6-(4-amino-3-ethylcyclohexyl)-6-methylheptane | NC(C)CCCC(C)(C)C1CC(C(CC1)N)CC | C16H34N2
